US04929613
4-[3-(Acetylamino)cyclopentyl]-2,5-difluorobenzoyl chloride.
A mixture of 14.2 g (50 mmole) of 4-[3-(amino)cyclopentyl]-2,5-difluorobenzoic acid in 200 ml of methylene chloride was treated with 6.4 g (50 mmol) of oxalyl chloride and 0.5 ml of dimethylformamide. The reaction mixture was stirred at room temperature for 18 hours and the solvent removed in vacuo. The residue was triturated with toluene which was also removed in vacuo. The residue was used without further purification.

reactant | 4-[3-(amino)cyclopentyl]-2,5-difluorobenzoic acid | 50 mmole, 14.2 g | NC1CC(CC1)C1=CC(=C(C(=O)O)C=C1F)F | C12H13F2NO2
reactant | oxalyl chloride | 50 mmol, 6.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(Acetylamino)cyclopentyl]-2,5-difluorobenzoyl chloride | C(C)(=O)NC1CC(CC1)C1=CC(=C(C(=O)Cl)C=C1F)F | C14H14ClF2NO2
